US07638515B2
7-Chloro-1-[(1H-indazol-4-yl)amino]-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2.5-diol
Analogously to Example 2, the corresponding imine is produced starting from 410 mg of 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 168 mg of 4-aminoindazole. 98 mg of the title compound is obtained by reaction of 200 mg of imine with 6.7 ml of BBr3 (1N in dichloromethane).

reactant | 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 410 mg | ClC1=CC(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 4-aminoindazole | 168 mg | NC1=C2C=NNC2=CC=C1 | C7H7N3
reactant | BBr3 | 1N, 6.7 ml | B(Br)(Br)Br | BBr3
product | 7-Chloro-1-[(1H-indazol-4-yl)amino]-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2.5-diol | 98 mg | ClC=1C=C(C=2C(CC(C(C2C1)NC1=C2C=NNC2=CC=C1)(O)C(F)(F)F)(C)C)O | C20H19ClF3N3O2
